US07235572B2
d] [4-Methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile
Tetrabutylammonium cyanide (1.44 g, 5.4 mmol) was added to a solution of 5-chloromethyl-4-methyl-2-(3-trifluoromethyl-phenyl)-thiazole (1.2 g, 4.1 mmol) in acetonitrile (27 ml). The solution was stirred at ambient temperature for 16 h, saturated aqueous sodium bicarbonate solution/ice water 1/1 and ethyl acetate were added and the layers were separated. The aqueous layer was extracted with ethyl acetate, the combined organic layers were washed with ice water/brine 1/1, dried over sodium sulfate and the solvent was evaporated in vacuo to give brown oil which was purified by column chromatography (silica gel, pentane/ethyl acetate) to yield 700 mg (2.5 mmol, 60%) of the title compound as orange oil.

reactant | 5-chloromethyl-4-methyl-2-(3-trifluoromethyl-phenyl)-thiazole | 4.1 mmol, 1.2 g | ClCC1=C(N=C(S1)C1=CC(=CC=C1)C(F)(F)F)C | C12H9ClF3NS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetonitrile | 27 ml | C(C)#N | C2H3N
catalyst | Tetrabutylammonium cyanide | 5.4 mmol, 1.44 g | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
product | [4-Methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile | 2.5 mmol, 700 mg, 60% | CC=1N=C(SC1CC#N)C1=CC(=CC=C1)C(F)(F)F | C13H9F3N2S
